US04526723
Preparation of 3-palmitoyloxy-2-(4'-methylphenyl)-5,5-dimethyl-2-cyclohexenone
Using the procedure described in Example III and starting with 3.00 g (0.0130 mol) of 2-4'-methylphenyl)-5,5-dimethyl-1,3-cyclohexanedione, 2.69 g (0.0098 mol) of palmitoyl chloride, 2.63 g (0.0260 mol) of triethylamine, and 30 ml of methylene chloride, 3.1 g (67% yield) of a clear, colorless oil was obtained as the desired product.

reactant | 5,5-dimethyl-1,3-cyclohexanedione | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | palmitoyl chloride | 0.0098 mol, 2.69 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | triethylamine | 0.0260 mol, 2.63 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-palmitoyloxy-2-(4'-methylphenyl)-5,5-dimethyl-2-cyclohexenone | 67% yield | C(CCCCCCCCCCCCCCC)(=O)OC1=C(C(CC(C1)(C)C)=O)C1=CC=C(C=C1)C | C31H48O3
